US20010027196A1
2-Amino-4-ethylsulfanyl-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile, ethanethiol and DBU in DME. EI-MS m/e (%): 246 (M+, 49), 245 ([M—H]+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)(=O)C | C10H8N4O3S
reactant | ethanethiol | C(C)S | C2H6S
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-ethylsulfanyl-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)SCC)C#N)C=1OC=CC1 | C11H10N4OS
